US08648200B2
5-[6-(Difluoromethyl)-3-pyridyl]-4-methyl-1H-imidazol-2-amine
Dissolve N-[5-[6-(difluoromethyl)-3-pyridyl]-4-methyl-1H-imidazol-2-yl]acetamide (0.172 g, 0.65 mmol) in MeOH (5 mL) and water (5 mL). Heat the mixture to 60° C. Add hydrochloric acid (12 N, 5 mL, 60 mmol). Stir mixture for 2 hours at 60° C. Concentrate the mixture to a volume of about 10 mL. Adjust the pH of the aqueous solution to 8. Extract the resulting solution with EtOAc (2×20 mL). Dry the combined organic extracts over sodium sulfate; filter; collect the filtrate; and concentrate the filtrate under reduced pressure to give the title compound as a yellow oil (0.153 g, 100% crude yield). LCMS (m/z) 225 (M+1).

reactant | N-[5-[6-(difluoromethyl)-3-pyridyl]-4-methyl-1H-imidazol-2-yl]acetamide | 0.65 mmol, 0.172 g | FC(C1=CC=C(C=N1)C1=C(N=C(N1)NC(C)=O)C)F | C12H12F2N4O
reactant | hydrochloric acid | 60 mmol, 12 N, 5 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 5-[6-(Difluoromethyl)-3-pyridyl]-4-methyl-1H-imidazol-2-amine | 0.153 g | FC(C1=CC=C(C=N1)C1=C(N=C(N1)N)C)F | C10H10F2N4
